US05075437
To a solution of (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[(1R)-3-hydroxy-1,3-dimethyl-2-oxobutyl]-2-azetidinone (135 mg) in tetrahydrofuran (4 ml) was added 1M solution of sodium periodate buffered with acetic acid (mole ratio 1:1) (7.8 ml) at room temperature and the mixture was stirred for 1 day at the same temperature. The reaction mixture was evaporated, acidified, and extracted twice with dichloromethane. The organic layer was washed twice with brine, dried over magnesium sulfate and evaporated to give (2R)-2-[(2S,3S)-3-{(1R)-1-(t-butyldimethylsilyloxy)ethyl}-4-oxoazetidin-2-yl]propionic acid (85 mg).

reactant | (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[(1R)-3-hydroxy-1,3-dimethyl-2-oxobutyl]-2-azetidinone | 135 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(C(C)(C)O)=O)C)=O | C17H33NO4Si
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | acetic acid | 7.8 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (2R)-2-[(2S,3S)-3-{(1R)-1-(t-butyldimethylsilyloxy)ethyl}-4-oxoazetidin-2-yl]propionic acid | 85 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H](NC1=O)[C@H](C(=O)O)C | C14H27NO4Si
